US06982274B2
5-Fluoro[b]benzofuran
To a solution of 16.0 g of 1-(2,2-diethoxyethoxy)-4-fluorobenzene in 50 ml n-hexane was added 3.2 g of amberlyst 15 at room temperature. After the mixture was treated in a sealed tube at 200° C. for 11 hours, the amberlyst 15 was filtered off. The solvent was evaporated, and the crude product was purified and separated by silica gel column chromatography (n-hexane), to give 4.8 g of the title compound as a colorless oil.

reactant | 1-(2,2-diethoxyethoxy)-4-fluorobenzene | 16.0 g | C(C)OC(COC1=CC=C(C=C1)F)OCC | C12H17FO3
solvent | n-hexane | 50 ml | CCCCCC | C6H14
product | 5-Fluoro[b]benzofuran | 4.8 g | C1=CC2=C(C=CO2)C=C1F | C8H5FO
